* Chua Circuit  

.model nbjt NPN IS = 1e-9 BF = 100 BR = 1

VCC1  13  0   12
VCC2  14  0   12
V1    1   2   10
V2    11  3   2
R1    2   3   1e4
R2    4   13  4e3
R3    5   14  4e3
R4    1   0   5e3
R5    4   6   3e4
R6    8   0   500
R7    9   0   500
R8    5   7   3e4
R9    6   0   10.1e3
R10   7   0   10.1e3
R11   13  10  4e3
R12   14  12  4e3
R13   10  3   30e3
R14   12  11  30e3
Q1    4   1   8     nbjt
Q2    10  6   8     nbjt
Q3    5   1   9     nbjt
Q4    12  7   9     nbjt
  
  .nodeset v(3)=0 v(4)=0 v(5)=0 v(6)=0 v(7)=0 v(10)=0 v(11)=0 v(12)=0
* .nodeset v(3)=0 v(4)=5 v(5)=1.5 v(6)=1.8 v(7)=0 v(10)=5 v(11)=0 v(12)=0
* .nodeset v(3)=0 v(4)=0 v(5)=0 v(6)=5 v(7)=0 v(10)=0 v(11)=0 v(12)=0
* .nodeset v(3)=0 v(4)=0 v(5)=0 v(6)=5 v(7)=5 v(10)=0 v(11)=0 v(12)=5
* .nodeset v(3)=-5 v(4)=5 v(5)=5 v(6)=1.9 v(7)=1.9 v(10)=5 v(11)=0 v(12)=5
* .nodeset v(3)=0 v(4)=1.5 v(5)=5 v(6)=0 v(7)=1.8 v(10)=5 v(11)=0 v(12)=5
* .nodeset v(3)=0 v(4)=0 v(5)=0 v(6)=0 v(7)=5 v(10)=0 v(11)=0 v(12)=0
* .nodeset v(3)=0 v(4)=0 v(5)=0 v(6)=5 v(7)=5 v(10)=5 v(11)=0 v(12)=0
* .nodeset v(3)=0 v(4)=0 v(5)=0 v(6)=5 v(7)=5 v(10)=0 v(11)=0 v(12)=0

.op