* Schmitt Trigger circuit no. 1   

.model nbjt NPN IS=1e-16 BF=100 BR=1

q1   1  5  2  nbjt
q2   3  4  2  nbjt
rc1  6  1     2e3
rc2  6  3     1e3
r3   1  4     10e3
re   2  0     100
vcc  6  0     10
vin  5  0     1.5

  .nodeset v(1)=0 v(2)=5 v(3)=5  
* .nodeset v(1)=5 v(2)=0 v(3)=5
* .nodeset v(1)=5 v(2)=5 v(3)=0

.end 